US07790751B2
A solution of 4-[3-(1-naphthylsulfonyl)-1H-indazol-5-yloxy]piperidin-1-ylcarboxylic acid benzyl ester (1.78 g, 3.29 mmol) and anisole (1.1 mL, 9.9 mmol) in methylene chloride at 0° C. was treated with triflic acid (2.05 mL, 23.2 mmol), stirred at 0° C. under nitrogen for 1.5 hours, treated with 2.5 N sodium hydroxide and extracted with warm ethyl acetate. The extracts were combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography with 0.5-0.75% ammonium hydroxide/5.0-7.5% methanol in chloroform to give 3-(1-naphthylsulfonyl)-5-(piperidin-4-yloxy)-1H-indazole as a dark orange semi-solid, 0.860 g, (64.2% yield). A portion of the semi-solid (160 mg) was dispersed in methanol and chloroform, treated with ethereal HCl and concentrated in vacuo for 12 hours at 82° C. to yield the title product as a light orange solid, 0.151 g, mp 174-6° C. (dec), Mass spectrum (+EI, [M+H]+) m/z 408. 1HNMR (500 MHz, DMSO-d6): δ14.11-14.19 (br, 1H), 8.66-8.80 (br, m, 3H), 8.55-8.57 (m, 1H), 8.27 (d, 1H, J=8.30 Hz), 8.02-8.04 (m, 1H), 7.70-7.73 (m, 1H), 7.54-7.63 (m, 3H), 7.31 (d, 1H, J=2.07 Hz), 7.12-7.15 (m, 1H), 4.69-4.73 (m, 1H), 3.19-3.29 (m, 2H), 3.06-3.13 (m, 2H), 2.02-2.07 (m, 2H), 1.75-1.83 ppm (m, 2H).

reactant | 4-[3-(1-naphthylsulfonyl)-1H-indazol-5-yloxy]piperidin-1-ylcarboxylic acid benzyl ester | 3.29 mmol, 1.78 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C30H27N3O5S
reactant | anisole | 9.9 mmol, 1.1 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | triflic acid | 23.2 mmol, 2.05 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(1-naphthylsulfonyl)-5-(piperidin-4-yloxy)-1H-indazole | 64.2% yield | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CCNCC1 | C22H21N3O3S
